US09079880B2
Add lithium hydroxide (0.15 g, 6.3 mmol) to a suspension of 3-[(3-cyano-phenylcarbamoyl)-methoxy]-benzoic acid methyl ester (0.94 g, 3.1 mmol) in a 1:1 mixture of MeOH:water (30 mL). Stir the mixture at room temperature for 15 h then adjust the pH of the reaction to slightly acidic by the addition of a 2 N solution of hydrochloric acid. A solid precipitates from solution. Collect by filtration, wash with water, and dry on the filter pad to provide 0.650 g of 3-[(3-cyano-phenylcarbamoyl)-methoxy]-benzoic acid as a solid.

reactant | lithium hydroxide | 6.3 mmol, 0.15 g | [OH-].[Li+]
reactant | 3-[(3-cyano-phenylcarbamoyl)-methoxy]-benzoic acid methyl ester | 3.1 mmol, 0.94 g | COC(C1=CC(=CC=C1)OCC(NC1=CC(=CC=C1)C#N)=O)=O | C17H14N2O4
reactant | MeOH | CO | CH4O
reactant | hydrochloric acid | Cl | ClH
solvent | water | 30 mL | O | H2O
product | 3-[(3-cyano-phenylcarbamoyl)-methoxy]-benzoic acid | 0.650 g | C(#N)C=1C=C(C=CC1)NC(=O)COC=1C=C(C(=O)O)C=CC1 | C16H12N2O4
